US08623889B2
Step 1: 3-(3-aminoisoquinolin-7-yl)-4-methylbenzoic acid
A mixture of 7-bromoisoquinolin-3-amine (299.9 mg; 1.344 mmol), 4-methyl-3-(4,4,5-trimethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (387.1 mg; 1.560 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (51.5 mg; 0.0727 mmol), potassium carbonate (569.3 mg; 4.119 mmol), dioxane (10 mL) and water (1 mL) was stirred at 90° C. for 24 hours and then cooled to room temperature. The reaction mixture was acidified with 10% aqueous citric acid (10 mL). The product was recovered as a red-brown precipitate via filtration, rinsed with water and ethyl acetate, and dried under vacuum to yield 253.4 mg (68%) of the title compound which was carried forward without additional purification. LCMS (ESI): M+H=279.2; 1H NMR (400 MHz, DMSO) δ 8.87 (s, 1H), 7.84 (d, J=7.9 Hz, 1H), 7.81 (d, J=13.1 Hz, 2H), 7.59 (d, J=8.6 Hz, 1H), 7.46 (t, J=9.5 Hz, 2H), 6.67 (s, 1H), 5.96 (s, 2H), 2.34 (s, 3H).

reactant | 7-bromoisoquinolin-3-amine | 1.344 mmol, 299.9 mg | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | 4-methyl-3-(4,4,5-trimethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 1.560 mmol, 387.1 mg | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)C | C13H17BO4
reactant | potassium carbonate | 4.119 mmol, 569.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0727 mmol, 51.5 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | water | 1 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(3-aminoisoquinolin-7-yl)-4-methylbenzoic acid | 253.4 mg, 68% | NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C(=O)O)C=CC1C | C17H14N2O2
